US07157154B2
Synthesis of 3,7-dibromo-5-(2,4,6-triisopropylphenyl)-2,8-dioctyloxy-5H-dibenzo(b, d)borole
2.0 g of 4,4′-dibromo-2,2′-diiodo-5,5′-dioctyloxy-1,1′-biphenyl synthesized as above was put in a 100 ml flask in an atmosphere of nitrogen and 20 ml of tetrahydrofuran was added to dissolve the same. Then, the tetrahydrofuran solution was cooled to −90° C. and 3.4 ml of 1.6M hexane solution was added dropwise. After 1-hour stirring, a solution of 1.5 g of magnesium bromide in 20 ml of tetrahydrofuran was added, warmed to room temperature, and stirred for 1 hour. The mixture was cooled again to −90° C., and 1.01 g of (2,4,6-triisopropylphenyl)dimethoxyborane was added. After warming, the mixture was allowed to react under reflux for 12 hours.

reactant | 4,4′-dibromo-2,2′-diiodo-5,5′-dioctyloxy-1,1′-biphenyl | 2.0 g | BrC1=CC(=C(C=C1OCCCCCCCC)C1=C(C=C(C(=C1)OCCCCCCCC)Br)I)I | C28H38Br2I2O2
reactant | hexane | 1.6M, 3.4 ml | CCCCCC | C6H14
reactant | magnesium bromide | 1.5 g | [Br-].[Mg+2].[Br-]
reactant | (2,4,6-triisopropylphenyl)dimethoxyborane | 1.01 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)B(OC)OC | C17H29BO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3,7-dibromo-5-(2,4,6-triisopropylphenyl)-2,8-dioctyloxy-5H-dibenzo(b, d)borole | BrC=1C(=CC2=C(B(C3=C2C=C(C(=C3)Br)OCCCCCCCC)C3=C(C=C(C=C3C(C)C)C(C)C)C(C)C)C1)OCCCCCCCC | C43H61BBr2O2
